US04616015
To a stirred mixture of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.0 g) and N,N-dimethylaniline (0.93 ml) in DMF (10 ml) was added dropwise 2-acetoxypropionyl chloride (0.98 g) under ice cooling. The stirring was continued for one night at ambient temperature. The mixture was concentrated under reduced pressure. The residue was extracted with ethyl acetate after addition of saline solution. The extract was washed successively with 1N hydrochloric acid, water and saline solution, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (170 ml) with a mixture of chloroform and methanol (10:1) as an eluent. The eluates containing the object compound were evaporated in vacuo to give 1.13 g of 6-[4-(2-acetoxypropionylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one.

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.0 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | N,N-dimethylaniline | 0.93 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2-acetoxypropionyl chloride | 0.98 g | C(C)(=O)OC(C(=O)Cl)C | C5H7ClO3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-[4-(2-acetoxypropionylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.13 g | C(C)(=O)OC(C(=O)NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C)C | C15H18N4O4
